US08138189B2
Steps 1 and 2: 5-[2-(2-Chloro-5-methoxy-phenyl)-acetyl]-1-methyl-1H-pyridin-2-one
To a solution of 1-methyl-6-oxo-1,6-dihydro-pyridine-3-carboxylic acid (7.95 g) in N,N-dimethylformamide (385 ml) was added 1,1′-carbonyldiimidazole (8.42 g). The mixture was stirred at 50° C. for 70 min. The mixture was cooled to −10° C. and (2-chloro-5-methoxy-phenyl)-acetic acid methyl ester (10.61 g) was added. Sodium hydride (60% dispersion in mineral oil, 6.59 g) was added portionwise over 30 min. The mixture was slowly warmed to room temperature and stirred for 6 h. The mixture was poured into ice water (800 ml) and saturated aqueous ammonium chloride solution (250 ml) and was extracted with ethyl acetate (5×). The organic phase was washed with brine, dried (MgSO4), filtered and concentrated to dryness. The residue was dissolved in dimethylsulfoxide (100 ml). NaCl (3.15 g) and water (1.32 ml) were added and the mixture was heated to 140° C. for 5 h. After cooling to room temperature, ice water was added and the mixture was extracted with ethyl acetate. The organic phase was washed with brine, dried (MgSO4), filtered and concentrated to dryness to give a light brown solid. The solid was washed with cyclohexane and a small amount of dichloromethane to give the title compound as a colorless solid. More product could be obtained by chromatographic purification of the mother liquor ((SiO2, cyclohexane/EtOAc 7:3=>EtOAc). Colorless solid (9.37 g). MS (m/e)=292.1 [M+H+].

reactant | 1-methyl-6-oxo-1,6-dihydro-pyridine-3-carboxylic acid | 7.95 g | CN1C=C(C=CC1=O)C(=O)O | C7H7NO3
reactant | 1,1′-carbonyldiimidazole | 8.42 g | C(=O)(N1C=NC=C1)N1C=NC=C1 | C7H6N4O
reactant | (2-chloro-5-methoxy-phenyl)-acetic acid methyl ester | 10.61 g | COC(CC1=C(C=CC(=C1)OC)Cl)=O | C10H11ClO3
reactant | Sodium hydride | 6.59 g | [H-].[Na+]
reactant | ammonium chloride | 250 ml | [Cl-].[NH4+]
solvent | N,N-dimethylformamide | 385 ml | CN(C=O)C | C3H7NO
product | 5-[2-(2-Chloro-5-methoxy-phenyl)-acetyl]-1-methyl-1H-pyridin-2-one | ClC1=C(C=C(C=C1)OC)CC(=O)C=1C=CC(N(C1)C)=O | C15H14ClNO3
